US07674397B2
Step 2.2: 6-(5-Iodo-thiophen-2-ylmethoxy)hexanoic acid 1-vinyl-allyl ester
A mixture of 6-[5-iodo-(2-thienyl)]methoxyhexanoic acid (13.20 g, 37.3 mmol), 1,4-pentadien-3-ol (3.13 g, 37.3 mmol), dicyclohexylcarbodiimide (7.70 g, 37.3 mmol) and 4-dimethylaminopyridine (0.1 g) in DCM (250 mL) is stirred for 12 h under nitrogen. The solid is removed by filtration and the filtrate is evaporated under reduced pressure. The residue is purified by column chromatography on silica, eluting with petroleum ether/diethyl ether (90:10), to give the product as a brown oil (12.27 g, 77%) NMR showed the expected signals.

reactant | 6-[5-iodo-(2-thienyl)]methoxyhexanoic acid | 37.3 mmol, 13.20 g | IC1=CC=C(S1)COCCCCCC(=O)O | C11H15IO3S
reactant | 1,4-pentadien-3-ol | 37.3 mmol, 3.13 g | C=CC(C=C)O | C5H8O
reactant | dicyclohexylcarbodiimide | 37.3 mmol, 7.70 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 0.1 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
product | 6-(5-Iodo-thiophen-2-ylmethoxy)hexanoic acid 1-vinyl-allyl ester | 12.27 g, 77% | C(=C)C(C=C)OC(CCCCCOCC=1SC(=CC1)I)=O | C16H21IO3S
